US04395577
Preparation of N-(2-methyl-5-nitrobenzyl)acetamide
To a solution of p-nitrotoluene (2.74 g; 0.02 mol) and diacetamide (4.24 g; 0.04 mol) in concentrated sulfuric acid (20 ml) is added aqueous formaldehyde (37%; 1.6 g; 0.02 mol) dropwise with stirring. The reaction mixture is stirred at room temperature for 17 hours, heated to 55° C. for 8 hours and then to 85° C. for 19 hours. The mixture is then poured onto ice. The resulting colorless precipitate is removed by filtration and recrystallized from aqueous ethanol to give 2.7 g of product (65% yield) having a melting point of 133° to 137.5° C.

reactant | p-nitrotoluene | 0.02 mol, 2.74 g | [N+](=O)([O-])C1=CC=C(C=C1)C | C7H7NO2
reactant | diacetamide | 0.04 mol, 4.24 g | CC(=O)NC(=O)C | C4H7NO2
reactant | formaldehyde | 0.02 mol, 1.6 g | C=O | CH2O
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | N-(2-methyl-5-nitrobenzyl)acetamide | 2.7 g, 65% yield | CC1=C(CNC(C)=O)C=C(C=C1)[N+](=O)[O-] | C10H12N2O3
